US05403840
3. Preparation of Molsidomin-β-CD complex by kneading
6.6 g of β-cyclodextrin (5 mmoles, content 14%) and 0.6 g (2.5 mmoles) of Molsidomin are homogenized in a friction mortar protected from light if possible. 3 ml of a 50% ethyl alcohol are added and the dense suspension is stirred for further 30 minutes after spreading the product of hard lubricity and paste like consistence on a watch-glass, it is dried to constant weight in the presence of phosphoruspentoxide in an exsiccator. The product obtained is pulverized, its active ingredient content is 9±0.5% determined by the spectrophotometric method, which corresponds to a molar ratio of about 1:2. DSC curves of Molsidomin, its mechanical mixture and its complex with β-CD are significantly different. The endothermic peak at 140°-142° C. on the DSC curve completely disappeared in the case of complexes with β-CD prepared by both kneading or liophylization. It indicates that the Molsidomin is complexed, and at 130°-160° C. temperature range not even a 50 fold magnified curve showed endothermic peak of melting in the case of complex prepared by lyophilization.

reactant | β-cyclodextrin | 5 mmoles, 6.6 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | Molsidomin | 2.5 mmoles, 0.6 g | CCOC(=O)/N=C\1/C=[N+]([N-]O1)N2CCOCC2 | C9H14N4O4
solvent | ethyl alcohol | C(C)O | C2H6O
product | Molsidomin β-CD | CCOC(=O)/N=C\1/C=[N+]([N-]O1)N2CCOCC2.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C42H70O35.C9H14N4O4/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;1-2-16-9(14)10-8-7-13(11-17-8)12-3-5-15-6-4-12/h8-63H,1-7H2;7H,2-6H2,1H3/b;10-8-/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;/m1./s1
